US08067445B2
Step 1: (2′-{[Ethyl-(2-[1,2,4]triazol-1-yl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
To a solution of 1,2,4-triazole (0.042 g, 0.61 mmol) in DMF at 0° C. was added sodium hydride (60% in mineral oil; 0.044 g, 1.1 mmol), and the mixture was stirred for 30 minutes. (2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.55 mmol) in DMF was added, followed by tetrabutylammonium iodide (0.1022 g, 0.06 mmol), and the reaction was warmed to room temperature and stirred for 1.5 hours. The mixture was diluted with EtOAc and H2O, and the aqueous layer was extracted twice with EtOAc. The combined organic layers were washed three times with H2O, and then dried and concentrated, and the residue was purified by silica gel chromatography (40-90% EtOAc in hexanes) to give the title compound.

reactant | 1,2,4-triazole | 0.61 mmol, 0.042 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 1.1 mmol, 0.044 g | [H-].[Na+]
reactant | (2′-{[(2-Chloro-acetyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.55 mmol | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(CCl)=O)=O | C23H25ClF3NO4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.06 mmol, 0.1022 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | (2′-{[Ethyl-(2-[1,2,4]triazol-1-yl-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CN1N=CN=C1)=O)CC)=O | C25H27F3N4O4
